US05665718
26.6 g (71 mmol) of crude (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, 400 ml of methylene chloride, 85 ml (496 mmol) of N-ethyldiisopropylamine and 34.5 g (285 mmol) of allyl bromide were stirred at room temperature for 20 hours. The reaction solution was washed three times with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on 2 kg of silica gel while eluting with ethyl acetate. The uniform fractions were evaporated and recrystallized from toluene and n-hexane. There were obtained 22.34 g (69%) of (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 103°-104°.

reactant | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 71 mmol, 26.6 g | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3Cl)F)=O)CC1 | C16H12ClFN6O2
reactant | N-ethyldiisopropylamine | 496 mmol, 85 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 285 mmol, 34.5 g | C(C=C)Br | C3H5Br
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 22.34 g, 69% | C(C=C)N(CC=C)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3Cl)F)=O)CC1 | C22H20ClFN6O2
